US07262201B1
A suspension of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (150 mg, 0.44 mol), (prepared as described for the starting material in Example 2), and 3-(3-furyl)-4,5-dihydro-1H-pyrazol-5-one (80 mg, 0.53 mol) in DMF (2 ml) containing potassium carbonate (92 mg, 0.67 mol) was heated at 100° C. for 2.5 hours. After cooling, the mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (MgSO4) and evaporated. The residue was purified by chromatography eluting with ethyl acetate/methylene chloride (1/1) followed by methanol/ethyl acetate/methylene chloride (1/4/5), followed by methanol/methylene chloride (1/9) to give 4-(5-(3-furyl)pyrazol-3-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride (155 mg, 77%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.44 mol, 150 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 3-(3-furyl)-4,5-dihydro-1H-pyrazol-5-one | 0.53 mol, 80 mg | O1C=C(C=C1)C1=NNC(C1)=O | C7H6N2O2
reactant | potassium carbonate | 0.67 mol, 92 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(5-(3-furyl)pyrazol-3-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride | 155 mg, 77% | Cl.O1C=C(C=C1)C1=CC(=NN1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | InChI=1S/C23H25N5O5.ClH/c1-29-20-11-17-19(12-21(20)32-7-2-4-28-5-9-30-10-6-28)24-15-25-23(17)33-22-13-18(26-27-22)16-3-8-31-14-16;/h3,8,11-15H,2,4-7,9-10H2,1H3,(H,26,27);1H
